US07101892B2
1-(4-Benzenesulfonyl-4-methylpentyl)-3-methoxypiperidine
1-(4-Benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine (0.1 g, 0.31 mmol), methyl iodide (22 μL, 0.35 mmol) and sodium hydride (60% dispersion in mineral oil, 15 mg, 0.35 mmol) were combined in tetrahydrofuran (2 ml) and stirred at room temperature for 18 hours. The reaction was quenched by the addition of water and brine and the mixture extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with 2–5% methanol/dichloromethane, to give the title compound. The hydrochloride salt was obtained by treatment with ethereal hydrogen chloride and crystallisation from ethanol/diethyl ether (77 mg, 74%). NMR of hydrochloride salt:

reactant | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine | 0.31 mmol, 0.1 g | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)O)(C)C | C17H27NO3S
reactant | methyl iodide | 0.35 mmol, 22 μL | CI | CH3I
reactant | sodium hydride | 0.35 mmol, 15 mg | [H-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-methoxypiperidine | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)OC)(C)C | C18H29NO3S
